US07211672B2
(±)-Cis-N-(4-chloro-phenyl)-N-[1-(furan-2-carbonyl)-6-methoxy-2-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide (B-111)
(±)-Cis-N-(4-chloro-phenyl)-N-[1-(furan-2-carbonyl)-6-methoxy-2-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide propionamide was made following the procedure for the synthesis of (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-6-methoxy-2-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide, substituting 2-furoyl chloride chloride for 4-fluorobenzoyl chloride.

reactant | (±)-Cis-N-(4-chloro-phenyl)-N-[1-(furan-2-carbonyl)-6-methoxy-2-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide propionamide | C(CC)(=O)N.ClC1=CC=C(C=C1)N(C(CC)=O)[C@@H]1C[C@@H](N(C2=CC=C(C=C12)OC)C(=O)C=1OC=CC1)C(F)(F)F
reactant | (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-6-methoxy-2-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide | ClC1=CC=C(C=C1)N(C(CC)=O)[C@@H]1C[C@@H](N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)F)=O)C(F)(F)F | C27H23ClF4N2O3
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | (±)-Cis-N-(4-chloro-phenyl)-N-[1-(furan-2-carbonyl)-6-methoxy-2-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide | ClC1=CC=C(C=C1)N(C(CC)=O)[C@@H]1C[C@@H](N(C2=CC=C(C=C12)OC)C(=O)C=1OC=CC1)C(F)(F)F | C25H22ClF3N2O4
